US07053089B2
4-[(3-Methoxy-pyrazin-2-ylamino)-methyl]-piperidine-1-carboxylic acid tert-butyl ester
4-[(3-Chloro-pyrazin-2-ylamino)-methyl]-piperidine-1-carboxylic acid tert-butyl ester (3.0 g, 0.0092 mol) and 0.5M sodium methoxide in methanol (40 mL) were heated under nitrogen at 75° C. for 18 h. The reaction was concentrated in vacuo, diluted with methylene chloride (100 mL) and washed with water (pH=9, adjusted with NaOH). The organic extract was dried over sodium sulfate filtered and concentrated to give the title compound. M.S.(M+1): 323.

reactant | 4-[(3-Chloro-pyrazin-2-ylamino)-methyl]-piperidine-1-carboxylic acid tert-butyl ester | 0.0092 mol, 3.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CNC1=NC=CN=C1Cl | C15H23ClN4O2
reactant | sodium methoxide | 0.5M | C[O-].[Na+]
solvent | methanol | 40 mL | CO | CH4O
product | 4-[(3-Methoxy-pyrazin-2-ylamino)-methyl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)CNC1=NC=CN=C1OC | C16H26N4O3
